US04839369
2-(3-(2-Methoxyethoxymethyl)phenoxymethyl)quinoline
1.1 g (0.015 mol) of 2-methoxyethanol was dissolved in 50 ml THF. To this solution 1.5 g (0.03 mol, 50% oil dispersion) NaH, (0.015 mol) 2-(3-chloromethylphenoxymethyl)quinoline hydrochloride, was added slowly. After the addition was completed, the mixture was heated at 70° C. bath temperature for overnight. The reaction mixture was poured into water and extracted with ether. The ether extract was washed with water, dried and concentrated to dryness under reduced pressure. The residue was passed through a silica gel column using hexane/ethylacetate (3:1) as eluent. Evaporation of eluent gave light yellow oil (1.1 g).

reactant | 2-methoxyethanol | 0.015 mol, 1.1 g | COCCO | C3H8O2
reactant | NaH | 0.015 mol | [H-].[Na+]
reactant | 2-(3-chloromethylphenoxymethyl)quinoline hydrochloride | Cl.ClCC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(3-(2-Methoxyethoxymethyl)phenoxymethyl)quinoline | 1.1 g | COCCOCC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C20H21NO3
